US09034866B2
10-bromo-2-carbamoyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-3-carboxylic acid (0.1 g) was reacted with N,N-Dimethylamine Hydrochloride similarly to the conditions described in Example 2 to produce 10-bromo-N3,N3-dimethyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2,3-dicarboxamide. This intermediate was then reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol via General Procedure E to afford 21 mg (16%) of 10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-N3,N3-dimethyl-5,6,7,12-tetrahydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2,3-dicarboxamide.

reactant | 10-bromo-2-carbamoyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-3-carboxylic acid | 0.1 g | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(N)=O)C(=O)O)C1 | C15H12BrN3O3
reactant | N,N-Dimethylamine Hydrochloride | Cl.CNC
product | 10-bromo-N3,N3-dimethyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2,3-dicarboxamide | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C(=O)N(C)C)C1 | C17H17BrN4O2
